US04734419
A mixture of ethyl 2-[3-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl]acetate (1.2 g) and aqueous 1N sodium hydroxide (3 ml) in methanol (25 ml) was refluxed for 1 hour. After cooling, the solvent was removed under reduced pressure to give a residue, which was acidified with aqueous 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried and evaporated. Thus obtained product was purified by recrystallization from isopropyl ether to give 2-[3-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl]acetic acid (1.075 g).

reactant | ethyl 2-[3-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl]acetate | 1.2 g | ClC=1C=C(CN2C(N(C3=CC=CC=C3C2=O)CC(=O)OCC)=O)C=CC1Cl | C19H16Cl2N2O4
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
product | 2-[3-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl]acetic acid | 1.075 g | ClC=1C=C(CN2C(N(C3=CC=CC=C3C2=O)CC(=O)O)=O)C=CC1Cl | C17H12Cl2N2O4
